US03966783
a. 6-Oxo-heptanoyl chloride
6-Oxo-heptanoic acid (20.1g; 0.14 mole), thionyl chloride (18.3g; 11.2 ml; 0.154 mole) and dry benzene (300 ml) together with dimethylformamide (three drops) were stirred at room temperature for 22 hours. The halogenating reagent and benzene were removed on the rotary evaporator. A further 100 ml of benzene was added and the solution was again evaporated under reduced pressure (to remove last traces of thionyl chloride). The quantitatively formed liquid acid chloride was used directly in step (b).

reactant | 6-Oxo-heptanoic acid | 0.14 mole, 20.1g | O=C(CCCCC(=O)O)C | C7H12O3
reactant | thionyl chloride | 0.154 mole, 11.2 ml, 18.3g | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | three drops | CN(C=O)C | C3H7NO
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 6-Oxo-heptanoyl chloride | O=C(CCCCC(=O)Cl)C | C7H11ClO2
